US07459562B2
B) tert-Butyl-4-(2-(benzylamino)pyridin-4-yloxy)-3-fluorophenylcarbamate
tert-Butyl 4-(2-chloropyridin-4-yloxy)-3-fluorophenylcarbamate (0.100 g, 0.295 mmol, 1.0 eq) was added to a degassed solution of dppf.PdCl2 (Matrix Scientific, 0.011 g, 0.0148 mmol, 0.05 eq), dppf (0.012 g, 0.022 mmol, 0.075 eq), and NaOt-Bu (0.040 g, 0.414 mmol, 1.4 eq) in toluene at room temperature. Benzylamine (0.045 mL, 0.414 mmol, 1.4 eq) was added to the reaction mixture and the resulting solution was stirred at 80° C. for 4 h. The reaction mixture was cooled to room temperature, quenched with 1N HCl and the solution extracted with CHCl3 (3×50 mL). The combined organic extracts were washed with 1 N NaOH (70 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography (Merck, 40-63 μM, 230-240 mesh, eluting 2:1 hexane/ethyl acetate) to afford the title compound (0.020 g, 17%). 1H NMR (CDCl3) δ 7.80-7.90 (m, 1H), 7.35-7.45 (m, 1H), 7.19-7.24 (m, 3H), 6.91-6.93 (m, 2H), 6.59 (br m, 1H), 6.10-6.20 (m, 1H), 5.75 (br m, 1H), 5.30-5.40 (m, 1H), 4.34 (s, 2H), 1.46 (s, 9H); MS(ESI+) m/z 410 (M+H)+; HRMS(ESI+) calcd.: 410.1880, found: 410.1884.

reactant | tert-Butyl 4-(2-chloropyridin-4-yloxy)-3-fluorophenylcarbamate | 0.295 mmol, 0.100 g, 1.0 eq | ClC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F | C16H16ClFN2O3
reactant | NaOt-Bu | 0.414 mmol, 0.040 g, 1.4 eq | CC(C)(C)[O-].[Na+]
reactant | Benzylamine | 0.414 mmol, 0.045 mL, 1.4 eq | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | dppf | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | PdCl2 | 0.0148 mmol, 0.011 g, 0.05 eq | Cl[Pd]Cl
catalyst | dppf | 0.022 mmol, 0.012 g, 0.075 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | tert-Butyl-4-(2-(benzylamino)pyridin-4-yloxy)-3-fluorophenylcarbamate | 0.020 g, 17% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)OC1=CC(=NC=C1)NCC1=CC=CC=C1)F)=O | C23H24FN3O3
